datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([H:19])([H:20])[H:21])[C:8](=[C:9]([H:23])[H:24])[H:22])([H:17])[H:18])([H:15])[H:16])[H:14])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([H:13])[C:3]([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([C:7]([H:19])([H:20])[H:21])[C:8](=[C:9]([H:23])[H:24])[H:22])[H:12])([H:10])[H:11],103.68
[O:0][O:1].[c:2]1([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13]>>[O:0]([O:1])[H:8].[c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13],251.082
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:30])([H:31])[H:32])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]([H:14])[H:15])[H:13])([H:11])[H:12].[C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:30])([H:31])[H:32])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17],313.624272
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10](=[C:11]([C:12]([C:13](=[C:14]([H:20])[H:21])[H:19])[H:18])[H:17])([H:15])[H:16]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])([H:5])[C:12]([C:11](=[C:10]([H:15])[H:16])[H:17])([C:13](=[C:14]([H:20])[H:21])[H:19])[H:18],55.8982
[C:0]([C:1]([C:2]([O:3])([C:4]([C:5]([H:13])([H:14])[H:15])=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2](=[O:3])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4]([C:5]([H:13])([H:14])[H:15])=[O:6],46.35872
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13](=[C:14][C:15](=[S:16])[H:19])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:14](=[C:13]([H:17])[H:18])[C:15](=[S:16])[H:19],52.3
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([C:15]([C:16]([H:27])([H:28])[H:29])=[C:17]([c:18]1[c:19]([H:31])[c:20]([H:32])[c:21]([H:33])[c:22]([H:34])[c:23]1[H:35])[H:30])([H:24])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[C:17]([C:15]([C:14]([H:24])([H:25])[H:26])[C:16]([H:27])([H:28])[H:29])([c:18]1[c:19]([H:31])[c:20]([H:32])[c:21]([H:33])[c:22]([H:34])[c:23]1[H:35])[H:30])[H:7])([H:5])[H:6],54.0573
[C:0](=[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5].[S:9]([H:10])[H:11]>>[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:10])([H:4])[H:5].[S:9][H:11],9.6232
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([C:7](=[C:8]([c:9]1[c:10]([H:20])[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]1[H:24])[H:19])[H:18])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:7]([C:6]([H:15])([H:16])[H:17])([C:8]([c:9]1[c:10]([H:20])[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]1[H:24])[H:19])[H:18])[H:3],39.6225
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([C:7]([H:18])([H:19])[H:20])[H:17])[H:16])([H:14])[H:15])([H:12])[H:13])[H:11])[H:10])([H:8])[H:9]>>[C:0](=[C:1]([C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([C:6]([C:7]([H:18])([H:19])[H:20])[H:17])[H:16])[H:10])([H:8])[H:9],105.688
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[S:12]=[C:13]([S:14][H:16])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:16])[H:5].[S:12]=[C:13]([S:14])[H:15],5.0208
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([C:6](=[C:7]([C:8]([H:18])[H:19])[H:17])[H:16])([H:14])[H:15])[H:13])[H:9]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]1([H:13])[C:5]([H:14])([H:15])[C:6]([H:16])=[C:7]([H:17])[C:8]1([H:18])[H:19])[H:9],78.7429
[C:0](#[C:1][S:2][H:4])[H:3].[C:5]([c:6]1[c:7]([H:14])[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]1[H:18])([H:12])[H:13]>>[C:0](#[C:1][S:2])[H:3].[H:4][C:5]([c:6]1[c:7]([H:14])[c:8]([H:15])[c:9]([H:16])[c:10]([H:17])[c:11]1[H:18])([H:12])[H:13],-5.8576
[C:0]([C:1]([C:2]([C:3]([O:4][O:5])([H:14])[H:15])([O:6][O:7][H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:11])([H:14])[H:15])([O:6][O:7][H:16])[H:13])[H:12])([H:8])([H:9])[H:10],123.428
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([H:18])[H:19])[H:17])=[C:8]([C:9]([H:20])([H:21])[H:22])[C:10]([H:23])([H:24])[H:25])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([C:6](=[C:7]([H:18])[H:19])[H:17])[C:8]1([C:9]([H:20])([H:21])[H:22])[C:10]([H:23])([H:24])[H:25])[H:11],78.6174
[C:0](=[C:1]=[C:2]([C:3]([H:12])([H:13])[H:14])[c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])([H:10])[H:11].[C:20]([H:21])([H:22])[H:23]>>[C:0](=[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[C:20]([H:21])([H:22])[H:23])([H:10])[H:11],43.0952
